US05925624
1-Deoxy-1-[2-[[2-[(aminoiminomethyl)amino]ethyl]amino]-6-[(2,2-diphenylethyl)amino]-9H-purin-9-yl]-N-ethyl-β-D-ribofuranuronamide
A solution of 1-[2-chloro6-[(2,2-diphenylethyl)amino]-9H-purin-9-yl]-1-deoxy-N-ethyl-β-D-ribofuranuronamide (0.382 g, 0.73 mmol) in dimethylsulphoxide (2.5 ml) was heated at 125° for 18h with ethylenediamine (1.15 g, 19.2 mmol) under nitrogen. The cooled mixture was partitioned between ethyl acetate (50 ml) and water (50 ml) and the aqueous phase was separated, extracted with ethyl acetate (20 ml) and the extract was combined with the organic phase from the partitioning. The organic solution was dried (MgSO4) and evaporated to leave a brown froth (0.373 g). This froth (0.353 g) was dissolved in 50% aqueous methanol (20 ml) and the solution was heated at 500 with pyrazole-1-carboxamidine hydrochloride (0.099 g, 0.675 mmol) for 18h. More pyrazole-1-carboxamidine hydrochloride (0.099 g, -0.675 mmol) and imidazole (0.048 g, 0.705 mmol) were added and the reaction was heated at 50° for a further 18h. The mixture was evaporated to leave a red oil which was purified by preparative HPLC (20-60% acetonitrile) to give the title compound (0.23 g) as a solid from ether. The product had MH+ =589, nmr(δ,DMSO-6) includes 1.02(t,3H), 3.05-3.25(m,2H) 3.3-3.5(m,2H), 3.4-3.6(m,1H), 4.8(s,1H), 4.5-4.7(m,2H), 5.85(d,1H), 7.15-7.4(m,10H), 7.57(m,1H), 8.12(s,1H), 8.1-8.25(m,1H).

reactant | 1-[2-chloro6-[(2,2-diphenylethyl)amino]-9H-purin-9-yl]-1-deoxy-N-ethyl-β-D-ribofuranuronamide | 0.73 mmol, 0.382 g | ClC1=NC(=C2N=CN(C2=N1)[C@H]1[C@H](O)[C@H](O)[C@H](O1)C(=O)NCC)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C26H27ClN6O4
reactant | ethylenediamine | 19.2 mmol, 1.15 g | C(CN)N | C2H8N2
reactant | pyrazole-1-carboxamidine hydrochloride | 0.675 mmol, 0.099 g | Cl.N1(N=CC=C1)C(=N)N
reactant | pyrazole-1-carboxamidine hydrochloride | -0.675 mmol, 0.099 g | Cl.N1(N=CC=C1)C(=N)N
reactant | imidazole | 0.705 mmol, 0.048 g | N1C=NC=C1 | C3H4N2
solvent | dimethylsulphoxide | 2.5 ml | CS(=O)C | C2H6OS
solvent | methanol | 20 ml | CO | CH4O
product | 1-Deoxy-1-[2-[[2-[(aminoiminomethyl)amino]ethyl]amino]-6-[(2,2-diphenylethyl)amino]-9H-purin-9-yl]-N-ethyl-β-D-ribofuranuronamide | 0.23 g | NN=CNCCNC1=NC(=C2N=CN(C2=N1)[C@H]1[C@H](O)[C@H](O)[C@H](O1)C(=O)NCC)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C29H36N10O4
